US04217305
In 50 ml of methanol was dissolved 7 g of pure N-benzyl-1-(1,4-benzodioxan-2-yl)ethylamine (i1 '). After adding one drop of ethanolic hydrochloric acid and 0.5 g of 10% palladium charcoal to the solution, and catalytic reduction was performed at normal pressure until the absorption of hydrogen gas stopped. Then, palladium charcoal was filtered away, the filtrate was acidified with the addition of ethanolic hydrochloric acid, and the solvent was distilled off. Then, 20 ml of isopropanol was added to the residue and the product formed was recovered by filtration to provide 4.4 g (75.7%) of 1-(1,4-benzodioxan-2-yl)ethylamine (i1 ') hydrochloride having a melting point of 234°-235° C. The product was then converted into a base by a conventional manner and distilled under reduced pressure to provide 2.9 g (62.3%) of 1-(1,4-benzodioxan-2-yl)ethylamine (i1 ') having a boiling point of 88°-90° C./0.1 mmHg.

reactant | N-benzyl-1-(1,4-benzodioxan-2-yl)ethylamine | 7 g | C(C1=CC=CC=C1)NC(C)C1COC2=C(O1)C=CC=C2 | C17H19NO2
solvent | methanol | 50 ml | CO | CH4O
catalyst | hydrochloric acid | one drop | Cl | ClH
catalyst | palladium charcoal | 0.5 g | [Pd] | Pd
product | 1-(1,4-benzodioxan-2-yl)ethylamine | 4.4 g, 75.7% | O1C(COC2=C1C=CC=C2)C(C)N | C10H13NO2
